US06028102
N-Acetylglycylglycinamide (VI)
N-Acetylglycine (5 g, 43 mmole) and 9.5 g (86 mmole) of glycinamide hydrochloride were dissolved in a 150 mL of a mixture of water-acetonitrile (50:50), 8.65 g (86 mmole) of triethylamine (TEA) and 12.6 g (64 mmole) of 1-ethyl-3(3-dimethyl aminopropyl)carbodiimide (EDC) as a coupling reagent were added to the mixture and the mixture was refluxed for 12 hours. The mixture was left to cool at room temperature, the insoluble materials were filtered and the filtrate was evaporated to dryness in vacuum. The residue was recrystallized from a big fraction of acetonitrile to get a mixture of the product with the salt TEA:HCl, the solid crystals were dissolved in distilled water and purified from the salt by a strong cation exchange chromatography (120 plus). The water fractions were collected and the water was removed by lyophilization to get a pure product 4.5 g (26 mmole), yield of 60%.

reactant | N-Acetylglycine | 43 mmole, 5 g | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | glycinamide hydrochloride | 86 mmole, 9.5 g | Cl.NCC(=O)N
reactant | triethylamine | 86 mmole, 8.65 g | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
solvent | water acetonitrile | O.C(C)#N
solvent | water | O | H2O
product | N-Acetylglycylglycinamide | 26 mmole, 4.5 g, yield of 60% | C(C)(=O)NCC(=O)NCC(=O)N | C6H11N3O3
